US05576359
Using methyl acrylate (21.5 g, 0.25 mole) and glycidyl methacrylate (14.2 g, 0.10 mole), the polymerization was carried out in the same manner as described in Synthesis Example 12, (1). The precipitate was filtered and dried under reduced pressure to give 21.0 g of poly(methyl acrylate/glycidylmethacrylate) as a colorless viscous oil having Mw 35000 and Mn 18000 (GPC with polystyrene calibration). The composition of the polymer was found to be methyl acrylate unit and glycidyl methacrylate unit in molar ratio of ca. 5:2 based on 1HNMR analysis.

reactant | methyl acrylate | 0.25 mole, 21.5 g | C(C=C)(=O)OC | C4H6O2
reactant | glycidyl methacrylate | 0.10 mole, 14.2 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
product | methyl acrylate glycidylmethacrylate | C(C=C)(=O)OC.C(C1CO1)OC(C(=C)C)=O | InChI=1S/C7H10O3.C4H6O2/c1-5(2)7(8)10-4-6-3-9-6;1-3-4(5)6-2/h6H,1,3-4H2,2H3;3H,1H2,2H3
